US07683067B2
2-Hydroxy-3-{5-[(4-methylpiperazin-1-yl)methyl]pyridin-2-yl}-1H-indole-6-carbonitrile hydrochloride
To a suspension of 1-[(6-chloro-1-oxidopyridin-3-yl)methyl]-4-methylpiperazine (0.145 g, 0.60 mmol) and 2-oxoindoline-6-carbonitrile (0.100 g, 0.63 mmol) in tetrahydrofuran (3 mL), was added sodium bis(trimethylsilyl)amide (1.4 mL, 1.4 mmol). The mixture was stirred for 5 min at room temperature and then heated in a microwave oven at 110° C. for 10 min. The mixture was quenched with methanol (2 mL) followed by evaporation to dryness. The dry product mixture was dissolved in ethyl acetate/acetonitrile, (1:1, 5 mL), is and phosphorus trichloride (0.5 mL, 5.73 mmol) was added. The mixture was stirred at 60° C. for 3 h and then concentrated in vacuo. The residue was purified on a silica gel column using a gradient dichloromethane/methanol, (100:1 to 2:1), as the eluent. The resulting yellow solid was dissolved in dichloromethane/methanol, (9:1), and treated with HCl in diethyl ether (1 M) at 0° C. The resulting yellow crystals were collected by filtration and washed with diethyl ether to obtain 0.025 g (9% yield) of the title compound: MS (ESP) m/z 348 (M++1).

reactant | 1-[(6-chloro-1-oxidopyridin-3-yl)methyl]-4-methylpiperazine | 0.60 mmol, 0.145 g | ClC1=CC=C(C=[N+]1[O-])CN1CCN(CC1)C | C11H16ClN3O
reactant | 2-oxoindoline-6-carbonitrile | 0.63 mmol, 0.100 g | O=C1NC2=CC(=CC=C2C1)C#N | C9H6N2O
reactant | sodium bis(trimethylsilyl)amide | 1.4 mmol, 1.4 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | phosphorus trichloride | 5.73 mmol, 0.5 mL | P(Cl)(Cl)Cl | Cl3P
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | 2-Hydroxy-3-{5-[(4-methylpiperazin-1-yl)methyl]pyridin-2-yl}-1H-indole-6-carbonitrile hydrochloride | 0.025 g, 9% yield | Cl.OC=1NC2=CC(=CC=C2C1C1=NC=C(C=C1)CN1CCN(CC1)C)C#N | InChI=1S/C20H21N5O.ClH/c1-24-6-8-25(9-7-24)13-15-3-5-17(22-12-15)19-16-4-2-14(11-21)10-18(16)23-20(19)26;/h2-5,10,12,23,26H,6-9,13H2,1H3;1H
